Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Fatigue with exertion

 
Major Surgical or Invasive Procedure:
Aortic valve replacement with a 21 mm
___ Ease tissue valve and tricuspid valve repair
with a 28 mm annuloplasty ring Physio II.

 
History of Present Illness:
___ year old ___ speaking woman
with a history of hyperlipidemia and hypertension. She presented
to ___ in ___ with dyspnea on exertion.
She was found to have anemia and pulmonary edema. A cardiac
workup was significant for endocarditis with vegetation on the
aortic valve associated with moderate aortic insufficiency. 
There
was also moderate to severe tricuspid insufficiency. Blood
cultures were positive for Strep Viridans and she was treated
with a six-week course of IV Ampicillin due to side effects
related to ceftriaxone. IV antibiotics completed ___ and she
now remains on oral amoxicillin with an unclear stop date. The
source of her endocarditis was suspected to be related to a
pedicure in ___. She notes that she is short of breath and can
not lie down flat, able to do stairs slowly one at a time,
ongoing edema in lower extremities which has increased a little
since ___.  

 
Past Medical History:
Aortic Insufficiency 
Aortic Stenosis
Back Pain
?? Biliary Cirrhosis treated many ___ years ago, diagnosis 
unclear
Cataracts 
Congestive Heart Failure, acute diastolic
Diverticulitis
Endocarditis, Strep Viridans
Hearing Loss
Hyperlipidemia
Hypertension
Iron Deficiency Anemia
Osteoarthritis 
Tricuspid Regurgitation
Vertigo
Anemia felt to be due to hemolysis 

 
Social History:
___
Family History:
Mother - died of an infection
Father - no known major medical problems
Brother - history of heart transplant in his ___, died ___ years
later

 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 110/50 (left arm ). Heart Rate: 103. O2 Saturation%: 93 
(room
air ). Resp. Rate: 16. Pain Score: 0.

Height: 60"  Weight: 132 lbs 

___: Pleasant woman, WDWN, NAD
Skin: Warm, dry, intact 
HEENT: NCAT, PERRLA, EOMI, OP benign
Neck:  Supple, full ROM 
Chest: Diminished breath sounds at bilateral bases with crackles
Heart: Regular rate and rhythm, III/VI diastolic murmur heard
best at RUSB with a III/VI systolic murmur noted at LMSB and
apex.
Abdomen: Normal BS, soft, non-tender, non-distended 
Extremities: Warm, well-perfused; trace to ___ edema 
Varicosities:
None
Neuro: Grossly intact 
Pulses: Palpable

Carotid Bruit: transmitted murmur bilaterally. No carotid 
bruits.

Vital Signs I/O 
24 HR Data (last updated ___ @ 1054)
    Temp: 97.8 (Tm 98.1), BP: 119/69 (115-134/55-71), HR: 98
(83-103), RR: 18 (___), O2 sat: 93% (93-98), O2 delivery: Ra,
Wt: 140.65 lb/63.8 kg
Fluid Balance (last updated ___ @ 1051)
  Last 8 hours  Total cumulative -220ml
    IN: Total 680ml, PO Amt 680ml
    OUT:  Total 900ml, Urine Amt 900ml
  Last 24 hours  Total cumulative -1930ml
    IN: Total 1450ml, PO Amt 1280ml, IV Amt Infused 170ml
    OUT:  Total 3380ml, Urine Amt 3380ml

Physical Examination:
___: Appears weak and deconditioned  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: Decreased at the bases[x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema :___
Left Lower extremity    Warm [x]  Edema :___
Pulses:
DP             Right:  dop     Left:dop
___             Right:       Left:
Radial         Right:  2+     Left:2+
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Lower extremity: Right [] Left []  CDI []
Upper extremity: Right [] Left []  CDI []
Other:

 
Pertinent Results:
___ Cardiac cath
• Mild non-obstructive LAD CAD. Otherwise clean coronaries.

___ TEE
The left atrial volume index is SEVERELY increased. The right 
atrial pressure could not be estimated. There is
mild symmetric left ventricular hypertrophy with a normal cavity 
size. There is moderate global left ventricular
hypokinesis. No thrombus or mass is seen in the left ventricle. 
Quantitative biplane left ventricular ejection
fraction is 31 %. Due to severity of mitral regurgitation, 
intrinsic left ventricular systolic function likely be
lower. There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with mild
global free wall hypokinesis. Intrinsic right ventricular 
systolic function is likely lower due to the severity of
tricuspid regurgitation. The aortic sinus diameter is normal for 
gender with normal ascending aorta diameter
for gender. The aortic arch diameter is normal. An aortic valve 
bioprosthesis is present. The prosthesis is well
seated with normal leaflet motion and gradient. The effective 
orifice area index is moderately reduced
(0.65-0.90 cm2/m2). There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no
mitral valve prolapse. There is moderate to severe [3+] mitral 
regurgitation. A tricuspid annuloplasty ring is
present. The tricuspid annuloplasty ring is well seated, with 
thin and mobile leaflets and normal gradient.
There is a central jet of moderate to severe [3+] tricuspid 
regurgitation. There is mild-moderate pulmonary
artery systolic hypetension. There is no pericardial effusion. A 
left pleural effusion is present.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and moderate to severe
global hypokinesis. Well seated, normal functioning 
bioprosthetic AVR with normal gradient and no aortic
regurgitation. Moderate to severe mitral regurgitation. Well 
seated tricuspid annuloplasty ring with mobile
leaflets and normal gradient. Moderate to severe tricuspid 
regurgitation. Mild-moderate pulmonary artery
systolic hypertension.

___ 04:32AM BLOOD WBC-6.9 RBC-3.25* Hgb-10.1* Hct-32.7* 
MCV-101* MCH-31.1 MCHC-30.9* RDW-17.1* RDWSD-61.6* Plt ___
___ 01:34PM BLOOD WBC-8.3 RBC-3.04* Hgb-9.7* Hct-30.7* 
MCV-101* MCH-31.9 MCHC-31.6* RDW-17.7* RDWSD-66.2* Plt ___
___ 05:00AM BLOOD ___
___ 01:34PM BLOOD ___ PTT-44.2* ___
___ 04:32AM BLOOD Glucose-115* UreaN-39* Creat-0.8 Na-145 
K-4.4 Cl-100 HCO3-33* AnGap-12
___ 01:34PM BLOOD Glucose-96 UreaN-49* Creat-1.0 Na-142 
K-4.7 Cl-102 HCO3-27 AnGap-13
 
Brief Hospital Course:
Ms. ___ was admitted to the ___ on ___ for surgical 
management of her endocarditis affected valves. She underwent a 
coronary angiogram which showed no significant coronary artery 
disease. On ___ she was taken to the Operating Room where 
the she underwent tissue AVR/TVr.  Overall the patient tolerated 
the procedure well and post-operatively was transferred to the 
CVICU on Levo/vaso/epi. She received 3 PRBC for acute blood loss 
anemia in the immediate post-op period. She remained intubated 
for 48hrs. Extubated on POD3. She was started on Lasix gtt for 
aggressive diuresis. Developed post-op thrombocytopenia,  and 
was HIT negative. 
 Patient was weaned from all pressors/inotropess slowly. She was 
started on Lopressor POD3 and transitioned off her lasix gtt to 
IV bolus dosing. Her creat peaked at 1.9, and is trending back 
to baseline at 0.8 by the time of her discharge. 
  The patient was neurologically intact but remained weak and 
deconditioned. She was transferred to the telemetry floor for 
further recovery POD4.  Chest tubes and pacing wires were 
discontinued without complication. She was seen by speech and 
swallow and cleared for modified diet.  The patient was 
evaluated by the Physical Therapy service for assistance with 
strength and mobility.  By the time of discharge on POD #6 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
to ___ & ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
Alprazolam 0.25 mg tablet. ___ tablet(s) by mouth at bedtime as
needed for Anxiety
Ampicillin 500 mg capsule. capsule(s) by mouth 3 times daily -  
Furosemide 20 mg  daily
Meclizine 25 mg as needed for vertigo
Metoprolol succinate ER 25 mg daily 
Omeprazole 40 mg  daily before breakfast 
Aspirin 81 mg daily 
Floranex 1 million cell tablet. tablet(s) by mouth daily
MVI daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Furosemide 60 mg PO DAILY Duration: 10 Days  
5.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
6.  Metoprolol Tartrate 12.5 mg PO TID  
7.  Miconazole Powder 2% 1 Appl TP TID:PRN (B)groin/(L)breast  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Potassium Chloride 20 mEq PO BID  
10.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 0.25 tablet(s) by mouth q6h prn Disp #*15 
Tablet Refills:*0 
11.  Aspirin 81 mg NG DAILY  
12.  Lactobacillus acidophilus 0.5 mg (100 million cell) oral 
DAILY  
13.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Insufficiency 
Aortic Stenosis
Back Pain
?? Biliary Cirrhosis treated many ___ years ago, diagnosis 
unclear
Cataracts 
Congestive Heart Failure, acute diastolic
Diverticulitis
Endocarditis, Strep Viridans
Hearing Loss
Hyperlipidemia
Hypertension
Iron Deficiency Anemia
Osteoarthritis 
Tricuspid Regurgitation
Vertigo
Anemia felt to be due to hemolysis 

 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision - healing well, no erythema or drainage
___ Edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge

*** Please check: BUN/Creatnine/Potassium two times weekly
 
Followup Instructions:
___